US08217051B2
In a manner similar to the method described in Example 1, 6-chlorooxindole (3.2 g, 19.1 mmol) (Alfa) was reacted with 5-chloro-2-furaldehyde (2.5 g, 19.1 mmol) (Aldrich) and piperidine (1.89 mL, 19.1 mmol) in methanol to give E/Z-6-chloro-3-(5-chloro-furan-2-ylmethylene)-1,3-dihydro-indol-2-one as a yellow solid (Yield 5.2 g, 97%)

reactant | 6-chlorooxindole | 19.1 mmol, 3.2 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | 5-chloro-2-furaldehyde | 19.1 mmol, 2.5 g | ClC1=CC=C(O1)C=O | C5H3ClO2
reactant | piperidine | 19.1 mmol, 1.89 mL | N1CCCCC1 | C5H11N
solvent | methanol | CO | CH4O
product | Z-6-chloro-3-(5-chloro-furan-2-ylmethylene)-1,3-dihydro-indol-2-one | Yield 5.2 g, 97% | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C=1OC(=CC1)Cl | C13H7Cl2NO2
